US08497368B2
To a solution of 5-bromo-6-fluoro-1H-indazole (4 g, 18.60 mmol) in DMF (20 ml) was added potassium 2-methylpropan-2-olate (2.087 g, 18.60 mmol). The resulting mixture was stirred for 40 min. CH3I (3.17 g, 22.32 mmol) was added dropwise. After stirring overnight, the reaction mixture was quenched with NH4Cl(aq), extracted with EtOAc, washed with NH4Cl(aq), dried over Na2SO4, filtered and concentrated in vacuo to give crude product. The crude product was purified with silica gel column chromatography with gradient Hexanes:EA to give light yellow solid 5-bromo-6-fluoro-1-methyl-1H-indazole (1.86 g, 42%).

reactant | 5-bromo-6-fluoro-1H-indazole | 18.60 mmol, 4 g | BrC=1C=C2C=NNC2=CC1F | C7H4BrFN2
reactant | potassium 2-methylpropan-2-olate | 18.60 mmol, 2.087 g | CC(C)(C)[O-].[K+]
reactant | CH3I | 22.32 mmol, 3.17 g | CI | CH3I
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-bromo-6-fluoro-1-methyl-1H-indazole | 1.86 g, 42% | BrC=1C=C2C=NN(C2=CC1F)C | C8H6BrFN2
